US08865712B2
a) 6-Chloro-1-(2,2-difluoro-ethyl)-1H-pyrrolo[3,2-b]pyridine-5-carboxylic acid ethyl ester
To a solution of 6-chloro-1H-pyrrolo[3,2-b]pyridine-5-carboxylic acid ethyl ester (210 mg, 0.935 mmol) in DMF (10 ml) was added cesium carbonate (457 mg, 1.402 mmol), after 15 min stirring at room temperature 1,1-difluoro-2-iodoethane (538 mg, 2.8 mmol) was added and stirring was continued over night. Tetrabutylammonium iodide (34.5 mg, 0.093 mmol) was added and stirring was continued for another 48 h. To the reaction mixture was added saturated aq. NH4Cl and the mixture was extracted with MTBE (2×). The combined organic layers were washed with half-saturated aq. NaCl, dried with Na2SO4 and evaporated. The residue was purified by chromatography on silica gel (cyclohexane to cyclohexane/EtOAc 20:80) to provide the title compound as yellow solid.

reactant | 6-chloro-1H-pyrrolo[3,2-b]pyridine-5-carboxylic acid ethyl ester | 0.935 mmol, 210 mg | C(C)OC(=O)C1=C(C=C2C(=N1)C=CN2)Cl | C10H9ClN2O2
reactant | cesium carbonate | 1.402 mmol, 457 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,1-difluoro-2-iodoethane | 2.8 mmol, 538 mg | FC(CI)F | C2H3F2I
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | Tetrabutylammonium iodide | 0.093 mmol, 34.5 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 6-Chloro-1-(2,2-difluoro-ethyl)-1H-pyrrolo[3,2-b]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C=C2C(=N1)C=CN2CC(F)F)Cl | C12H11ClF2N2O2
